; ============================================================
; MC_3PH_1PH_PQ_HML_PWM
; General P/Q-oriented H/M/L PWM block for a three-phase input
; to single-phase high-frequency matrix converter.
;
; This block generates switching commands using a general
; H/M/L active-vector allocation.
;
; Unlike pattern-derived implementations, this block does not use
; Af/Bf/Ar/Br or any fixed half-cycle pattern equations.
;
; The modulation flow is:
;
;   va/vb/vc
;     -> alpha/beta voltage vector
;     -> desired input current vector from p/q commands
;     -> H/M/L pair-vector dwell times
;     -> positive and negative HF half-cycle switching sequence
;     -> abc switch commands
;
; PWM carrier generation is not included.
; External saw carrier and sample clock are required.
;
; Inputs:
;   va, vb, vc   : converter-side input phase voltages
;   iout         : primary-referred transferred/output current
;                  If the measured current is on the secondary side,
;                  convert it outside this block before input.
;                  Example: iout_pri = Nps * iout_secondary
;   vpri_ref     : primary-side transferred voltage command
;                  Positive value is assumed for AC-DC operation.
;   q_ref        : reactive power command
;                  Normally q_ref = 0 for unity-power-factor operation.
;   clk          : sample clock for internal SAMPLEHOLD
;   saw          : PWM carrier ramp from 0 to 1 for each full HF cycle
;
; Outputs:
;   Sau, Sbu, Scu : switch commands from a/b/c phase to u terminal
;   Sav, Sbv, Scv : switch commands from a/b/c phase to v terminal
;
; Notes:
;   The output signals are gate/control commands, not duty ratios.
;   Only one of Sau/Sbu/Scu is high at a time.
;   Only one of Sav/Sbv/Scv is high at a time.
;
;   The first half of saw is used for positive primary voltage:
;     H-M, H-L, M-L, zero
;
;   The second half of saw is used for negative primary voltage:
;     M-H, L-H, L-M, zero
;
;   The zero state is implemented as M-M.
;
;   If the requested P/Q vector exceeds the feasible modulation
;   range, the dwell times are scaled down.
;
;   This subcircuit uses LTspicePowerSim SAMPLEHOLD.
;
;<Revision History>
;2026-06-28: Initial version
; ============================================================

.subckt MC_3PH_1PH_PQ_HML_PWM va vb vc iout vpri_ref q_ref clk saw Sau Sbu Scu Sav Sbv Scv

.param Ieps=0.1
.param Veps2=1
.param Kpq=1.5

; ------------------------------------------------------------
; Input phase voltage sorting
; ------------------------------------------------------------
Bvh vh 0 V={max(V(va),max(V(vb),V(vc)))}
Bvl vl 0 V={min(V(va),min(V(vb),V(vc)))}
Bvm vm 0 V={V(va)+V(vb)+V(vc)-V(vh)-V(vl)}

; ------------------------------------------------------------
; Phase classification flags
; ------------------------------------------------------------

; High phase priority: a > b > c
Bha ha 0 V={(V(va)>=V(vb)) & (V(va)>=V(vc))}
Bhb hb 0 V={(V(vb)> V(va)) & (V(vb)>=V(vc))}
Bhc hc 0 V={(V(vc)> V(va)) & (V(vc)> V(vb))}

; Low phase priority: c > b > a
Blc lc 0 V={(V(vc)<=V(va)) & (V(vc)<=V(vb))}
Blb lb 0 V={(V(vb)< V(vc)) & (V(vb)<=V(va))}
Bla la 0 V={(V(va)< V(vc)) & (V(va)< V(vb))}

; Middle phase
Bma ma 0 V={1-V(ha)-V(la)}
Bmb mb 0 V={1-V(hb)-V(lb)}
Bmc mc 0 V={1-V(hc)-V(lc)}

; ------------------------------------------------------------
; Alpha-beta voltage vector
;
; Same amplitude-invariant Clarke transform as LTspicePowerSim
; CLARKE block.
; ------------------------------------------------------------
Bvalpha valpha 0 V={(2/3)*(V(va)-0.5*V(vb)-0.5*V(vc))}
Bvbeta  vbeta  0 V={(V(vb)-V(vc))/sqrt(3)}

Bv2 v2 0 V={max(V(valpha)*V(valpha)+V(vbeta)*V(vbeta),Veps2)}

; ------------------------------------------------------------
; Desired input current vector coefficient
;
; The average input current is modeled as:
;
;   i_abc = iout * d_abc
;
; where d_abc is the duty-like current coefficient vector.
;
; Desired per-current power commands:
;
;   p_per_iout = vpri_ref
;   q_per_iout = q_ref / iout
;
; The requested alpha-beta current coefficient is obtained from:
;
;   p = Kpq * (v_alpha*i_alpha + v_beta*i_beta)
;   q = Kpq * (v_beta*i_alpha - v_alpha*i_beta)
;
; ------------------------------------------------------------
Bq_per q_per 0 V={V(q_ref)/max(abs(V(iout)),Ieps)}

Bdalpha dalpha 0 V={(V(valpha)*V(vpri_ref)+V(vbeta)*V(q_per))/(Kpq*V(v2))}
Bdbeta  dbeta  0 V={(V(vbeta)*V(vpri_ref)-V(valpha)*V(q_per))/(Kpq*V(v2))}

; Inverse Clarke, zero-sequence current coefficient = 0
Bda_raw da_raw 0 V={V(dalpha)}
Bdb_raw db_raw 0 V={-0.5*V(dalpha)+sqrt(3)*0.5*V(dbeta)}
Bdc_raw dc_raw 0 V={-0.5*V(dalpha)-sqrt(3)*0.5*V(dbeta)}

; ------------------------------------------------------------
; Convert abc current coefficient into H/M/L coordinates
; ------------------------------------------------------------
BdHc_raw dHc_raw 0 V={V(da_raw)*V(ha)+V(db_raw)*V(hb)+V(dc_raw)*V(hc)}
BdMc_raw dMc_raw 0 V={V(da_raw)*V(ma)+V(db_raw)*V(mb)+V(dc_raw)*V(mc)}
BdLc_raw dLc_raw 0 V={V(da_raw)*V(la)+V(db_raw)*V(lb)+V(dc_raw)*V(lc)}

; ------------------------------------------------------------
; General H/M/L pair-vector decomposition
;
; Active pair current vectors:
;
;   H-M : +H, -M
;   H-L : +H, -L
;   M-L : +M, -L
;
; The requested current coefficient is decomposed into:
;
;   dH = w_HM + w_HL
;   dM = -w_HM + w_ML
;   dL = -w_HL - w_ML
;
; For unity-PF operation inside the voltage sector:
;
;   dH >= 0
;   dL <= 0
;
; If the request is outside the feasible sector, it is projected
; into the feasible H/M/L active-vector region.
; ------------------------------------------------------------

BposH posH 0 V={max(V(dHc_raw),0)}
BnegL negL 0 V={max(-V(dLc_raw),0)}

; Use the long H-L vector as the shared component.
Bwhl0 whl0 0 V={min(V(posH),V(negL))}
Bwhm0 whm0 0 V={V(posH)-V(whl0)}
Bwml0 wml0 0 V={V(negL)-V(whl0)}

; Feasibility scaling.
; Total active dwell must be <= 1.
Bwsum0  wsum0  0 V={V(whm0)+V(whl0)+V(wml0)}
Bwscale wscale 0 V={min(1,1/max(V(wsum0),1u))}

Bwhm whm 0 V={V(whm0)*V(wscale)}
Bwhl whl 0 V={V(whl0)*V(wscale)}
Bwml wml 0 V={V(wml0)*V(wscale)}

Bwzero wzero 0 V={max(1-V(whm)-V(whl)-V(wml),0)}

; ------------------------------------------------------------
; Sample and hold modulation variables
;
; clk is used as the internal sample clock.
; These sampled values are used for Sxx generation.
; ------------------------------------------------------------

Xsh_whm clk whm whm_s SAMPLEHOLD
Xsh_whl clk whl whl_s SAMPLEHOLD
Xsh_wml clk wml wml_s SAMPLEHOLD
Xsh_wzero clk wzero wzero_s SAMPLEHOLD

Xsh_ha clk ha ha_s SAMPLEHOLD
Xsh_hb clk hb hb_s SAMPLEHOLD
Xsh_hc clk hc hc_s SAMPLEHOLD

Xsh_ma clk ma ma_s SAMPLEHOLD
Xsh_mb clk mb mb_s SAMPLEHOLD
Xsh_mc clk mc mc_s SAMPLEHOLD

Xsh_la clk la la_s SAMPLEHOLD
Xsh_lb clk lb lb_s SAMPLEHOLD
Xsh_lc clk lc lc_s SAMPLEHOLD

; ------------------------------------------------------------
; Full-cycle saw to half-cycle local carrier
;
; saw = 0 to 0.5:
;   positive primary voltage half-cycle
;
; saw = 0.5 to 1:
;   negative primary voltage half-cycle
; ------------------------------------------------------------

Bpos_half pos_half 0 V={if(V(saw)<0.5,1,0)}
Btau_h tau_h 0 V={if(V(saw)<0.5,2*V(saw),2*(V(saw)-0.5))}

; Boundaries inside each half-cycle
Bt1 t1 0 V={V(whm_s)}
Bt2 t2 0 V={V(whm_s)+V(whl_s)}
Bt3 t3 0 V={V(whm_s)+V(whl_s)+V(wml_s)}

; Active interval flags
Bact_hm act_hm 0 V={if(V(tau_h)<V(t1),1,0)}
Bact_hl act_hl 0 V={if((V(tau_h)>=V(t1)) & (V(tau_h)<V(t2)),1,0)}
Bact_ml act_ml 0 V={if((V(tau_h)>=V(t2)) & (V(tau_h)<V(t3)),1,0)}
Bact_z  act_z  0 V={if(V(tau_h)>=V(t3),1,0)}

; ------------------------------------------------------------
; H/M/L switching commands
;
; Positive half-cycle:
;   H-M, H-L, M-L, M-M
;
; Negative half-cycle:
;   M-H, L-H, L-M, M-M
; ------------------------------------------------------------

; u terminal H/M/L switching commands
BShu Shu 0 V={if(V(pos_half)>0.5, V(act_hm)+V(act_hl), 0)}
BSmu Smu 0 V={if(V(pos_half)>0.5, V(act_ml)+V(act_z), V(act_hm)+V(act_z))}
BSlu Slu 0 V={if(V(pos_half)>0.5, 0, V(act_hl)+V(act_ml))}

; v terminal H/M/L switching commands
BShv Shv 0 V={if(V(pos_half)>0.5, 0, V(act_hm)+V(act_hl))}
BSmv Smv 0 V={if(V(pos_half)>0.5, V(act_hm)+V(act_z), V(act_ml)+V(act_z))}
BSlv Slv 0 V={if(V(pos_half)>0.5, V(act_hl)+V(act_ml), 0)}

; ------------------------------------------------------------
; Convert H/M/L switching commands to abc switching commands
;
; Sau/Sbu/Scu : a/b/c phase to u terminal
; Sav/Sbv/Scv : a/b/c phase to v terminal
; ------------------------------------------------------------

BSau Sau 0 V={V(Shu)*V(ha_s)+V(Smu)*V(ma_s)+V(Slu)*V(la_s)}
BSbu Sbu 0 V={V(Shu)*V(hb_s)+V(Smu)*V(mb_s)+V(Slu)*V(lb_s)}
BScu Scu 0 V={V(Shu)*V(hc_s)+V(Smu)*V(mc_s)+V(Slu)*V(lc_s)}

BSav Sav 0 V={V(Shv)*V(ha_s)+V(Smv)*V(ma_s)+V(Slv)*V(la_s)}
BSbv Sbv 0 V={V(Shv)*V(hb_s)+V(Smv)*V(mb_s)+V(Slv)*V(lb_s)}
BScv Scv 0 V={V(Shv)*V(hc_s)+V(Smv)*V(mc_s)+V(Slv)*V(lc_s)}

.ends MC_3PH_1PH_PQ_HML_PWM
